US05708008
N-cyclohexyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
Beginning with 15.0 mg 0.0655 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 16.37 mg (0.131 mMol) cyclohexyl isocyanate, 20.1 mg (87%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | cyclohexyl isocyanate | 0.131 mMol, 16.37 mg | C1(CCCCC1)N=C=O | C7H11NO
product | N-cyclohexyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | 20.1 mg, 87% | C1(CCCCC1)NC(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C21H30N4O
